US09212180B2
Preparation of 4-(3-(4-(cyclopentyl(hydroxy)(phenyl)methyl)piperidin-1-yl)propoxy)benzonitrile (B11)
4-(3-(4-Benzoylpiperidin-1-yl)propoxy)benzonitrile (1.4 g, 4 mmol) was dissolved in dry THF (˜25 mL), heated to 60° C. and a solution of cyclopentylmagnesium chloride (4 mL, 2M) was added and the reaction stirred for 1 h. The reaction was quenched (sat. NH4Cl) and extracted into EtOAc (2×). The organic layers were dried over Na2SO4 and the volatiles removed under reduced pressure. The crude residue was purified on silica gel (0-4% MeOH in CH2Cl2). The combined fractions were further purified by reverse phase chromatography to give 117 mg (7% yield) of analytically pure title compound: 1H NMR (400 MHz, CDCl3) δ 7.54 (2H, d, J=8.8 Hz), 7.37 (2H, d, J=7.6 Hz), 7.31 (2H, t, J=7.6 Hz), 7.22 (1H, t, J=7.2 Hz), 6.89 (2H, d, J=8.8 Hz), 4.02 (2H, t, J=6 Hz), 3.12-3.00 (2H, m), 2.74-2.62 (3H, m), 2.09-1.95 (4H, m), 1.80-1.60 (4H, m), 1.58-1.40 (7H, m), 1.25-1.24 (1H, m), 1.11-1.09 (1H, m); LC-MS (>98%) m/z=419.3 [M+H]; HRMS=419.2701 [M+H], 100%, calculated for C27H35N2O2, 419.2699.

reactant | 4-(3-(4-Benzoylpiperidin-1-yl)propoxy)benzonitrile | 4 mmol, 1.4 g | C(C1=CC=CC=C1)(=O)C1CCN(CC1)CCCOC1=CC=C(C#N)C=C1 | C22H24N2O2
reactant | cyclopentylmagnesium chloride | 2M, 4 mL | C1(CCCC1)[Mg]Cl
solvent | THF | ˜25 mL | C1CCOC1 | C4H8O
product | 4-(3-(4-(cyclopentyl(hydroxy)(phenyl)methyl)piperidin-1-yl)propoxy)benzonitrile | 7% yield | C1(CCCC1)C(C1CCN(CC1)CCCOC1=CC=C(C#N)C=C1)(C1=CC=CC=C1)O | C27H34N2O2
